US04057559
A solution of sodium tert.-amylate in toluene (70 ml, 0.1 mole) is added dropwise with stirring under an atmosphere of nitrogen to a solution of 2-methylcyclopentanone (9.8 g, 0.1 mole) and ethyl bromoacetate (16.7 g, 0.1 mole) in dry benzene (100 ml). The reaction is exothermic, a precipitate is formed, and the mixture turns yellow-orange. Stirring is continued for 3 hrs. at room temperature, the solution is washed with 1% HCl, cold water, and brine, dried over anhydrous magnesium sulfate and the solvent evaporated to yield 1-methyl-2-oxocyclopentane acetic acid ethyl ester as a pale yellow oil which is used without further purification in the subsequent step and which is identical with the same compound described in Example 5.

reactant | toluene | 0.1 mole, 70 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-methylcyclopentanone | 0.1 mole, 9.8 g | CC1C(CCC1)=O | C6H10O
reactant | ethyl bromoacetate | 0.1 mole, 16.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-2-oxocyclopentane acetic acid ethyl ester | C(C)OC(CC1(C(CCC1)=O)C)=O | C10H16O3
